LightFollower
*SPICE Netlist generated by Advanced Sim server on 1/24/2024 1:59:06 PM
.options MixedSimGenerated

*Schematic Netlist:
C4 Vdd 0 470p
CC1 0 Vdd 0.1u
CC2 NetACorBatt_2 0 0.33u
CC3 NetACorBatt_2 0 470p

.PLOT {V(NetACorBatt_2)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:

.END